Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
seafood / abacavir sulfate / Phenothiazines
 
Attending: ___.
 
Chief Complaint:
admission for c6 of EPOCH
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ yo man with HIV, DLBCL (c/b large
pleural mass) here for C6 of DA-EPOCH/rituxan. 

He has tolerated his previous cycles well with only intermittent
neuropathy. 

He was seen in clinic today and received his rituxan prior to
admission. 

He otherwise is feeling well. He denies any fevers, cough, cold
symptoms, diarrhea, abdominal pain, dysuria. No constipation,
last BM was this morning x2. He has not had nausea. He takes
ativan at bedtime for sleep but otherwise has not required PRNs. 


All other review of systems are negative unless stated otherwise

 
Past Medical History:
As per HPI:
HIV-dx in ___
HTN
HLD
Depression
h/o shingles
Seasonal allergies
Tonsillectomy at age ___  

___ year old male with PMH of HIV, HTN and HLD, who was admitted
on ___ for left sided chest pain. He reports he had 
been
having left sided chest pain since the end of ___. He
described the pain as achy and thought he had a pulled muscle. 
He
has being followed by his pcp who did ___ chest x ray which was
negative. Pain worsened, he went to the ___ ER ___ CTA
chest and abdomen revealed a 6 cm soft tissue mass surrounding
the left fourth rib with an associated pathologic fracture, 1.2
cm soft tissue nodule abutting the left psoas, an expansile 
mixed
lytic and sclerotic T10 lesion, a 2.5 cm indeterminate right
adrenal nodule, retroperitoneal LAD. Possible bone lesions in L
7th rib, R iliac and R acetabulum. He then underwent an ___ 
guided
biopsy of this soft tissue mass on ___, which showed diffuse
large B cell lymphoma, CD20+, CD10 neg, Ki67 80-90%, EBV RNA neg
and BCL 6 rearrangement.  
He denied fevers, chills, night sweats or weight loss. LDH was
normal at presentation. 
He was seen locally by Dr. ___ at ___. 
Patient was admitted on ___ to initiate da-EPOCH cycle 1. 

Treatment history: 
___: IT MTX
___: C1D1 da-EPOCH, dose level 1
___: C1D1 Rituxan
___: C2D1 da-R-EPOCH, dose level 1
___: C3D1 da-R-EPOCH, dose level 2
___: C4D1 da-R-EPOCH, dose level 2
___: C5D1 da-R-EPOCH, dose level 2
___: C6D1 da-R-EPOCH, dose level 2

 
Social History:
___
Family History:
As per HPI:
Mother (d) ___- MI
Father (d) ___- aortic stenosis, COPD
PGM (d) 53 - Stomach CA
PGF (d) ___ - MI
2 Brothers with hemochromatosis
another brother and 1 sister all alive and well.
No other known family history of blood cancers or blood
disorders.
 
Physical Exam:
ADMISSION EXAMINATION
VSS
General:NAD alert and oriented x3
HEENT: Oropharynx clear, MMM, no scleral icterus
Cardiovascular: RRR no murmurs
Chest/Pulmonary: Clear to auscultation bilaterally
Abdomen: Soft, nontender, nondistended, normoactive bowel sounds
Pelvis/GU: No CVA tenderness
Back: no spinal tenderness
Extr/MSK: No peripheral edema
Skin: No rashes
Access: R POC c/d/i

DISCHARGE EXAMINATION
98, BP 106 / 64, HR 76 16 98 RA 
General: NAD alert and oriented x3
HEENT: Oropharynx clear, MMM, no scleral icterus
Cardiovascular: RRR no murmurs
Chest/Pulmonary: Clear to auscultation bilaterally
Abdomen: Soft, nontender, nondistended, normoactive bowel sounds
Pelvis/GU: No CVA tenderness
Back: no spinal tenderness
Extr/MSK: No peripheral edema
Skin: No rashes
Access: R POC c/d/i
 
Pertinent Results:
ADMISSION LABS
--------------------

___ 11:20AM   PLT COUNT-326
___ 11:20AM   NEUTS-72.5* LYMPHS-12.2* MONOS-12.2 EOS-0.0* 
BASOS-0.3 NUC RBCS-0.8* IM ___ AbsNeut-4.38 AbsLymp-0.74* 
AbsMono-0.74 AbsEos-0.00* AbsBaso-0.02
___ 11:20AM   WBC-6.1 RBC-2.37* HGB-8.7* HCT-26.6* MCV-112* 
MCH-36.7* MCHC-32.7 RDW-17.3* RDWSD-69.3*
___ 11:20AM   CALCIUM-9.4 URIC ACID-4.2
___ 11:20AM   ALT(SGPT)-13 AST(SGOT)-18 LD(LDH)-261* ALK 
PHOS-80 TOT BILI-0.2
___ 11:20AM   estGFR-Using this
___ 11:20AM   UREA N-12 CREAT-1.0 SODIUM-139 POTASSIUM-4.1 
CHLORIDE-101 TOTAL CO2-25 ANION GAP-13

DISCHARGE LABS
-------------------

___ 05:36AM BLOOD WBC-4.7 RBC-2.05* Hgb-7.4* Hct-22.5* 
MCV-110* MCH-36.1* MCHC-32.9 RDW-16.6* RDWSD-67.8* Plt ___
___ 05:36AM BLOOD Neuts-92.0* Lymphs-4.2* Monos-2.3* 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-4.34 AbsLymp-0.20* 
AbsMono-0.11* AbsEos-0.00* AbsBaso-0.00*
___ 05:31AM BLOOD Hypochr-NORMAL Anisocy-2+* Poiklo-NORMAL 
Macrocy-2+* Microcy-NORMAL Polychr-NORMAL
___ 05:36AM BLOOD Plt ___
___ 05:36AM BLOOD Glucose-102* UreaN-15 Creat-0.7 Na-141 
K-3.9 Cl-106 HCO3-25 AnGap-10
___ 05:36AM BLOOD ALT-12 AST-13 LD(LDH)-169 AlkPhos-49 
TotBili-0.3
___ 05:36AM BLOOD Albumin-3.6 Calcium-8.7 Phos-3.6 Mg-2.1 
UricAcd-5.___SSESSMENT AND PLAN: ___ yo man with HIV, DLBCL (c/b large 
pleural mass) here for C6 of DA-EPOCH-R at dose level 2. 

#Stage IV DLBCL: Involvement of soft tissue, bones, nodes, 
adrenal. PET scan after C3 showed interval resolution of left 
pleural, right adrenal, left parapsoas implant, left acetabular. 
He is admitted now for C6 of DA-R-EPOCH at dose level 2 o which 
he tolerated well without acute complications. He is planned for 
6 cycles of da R-EPOCH with curative intent and then 2 cycles of 
HD-MTX CNS prophylaxis. Will repeat PET after this cycle of 
chemotherapy. Today is D+5 of his regimen. Neupogen to follow on 
D6. Outpatient appointment scheduled with Dr. ___ on ___ 
Discontinued allopurinol as no evidence of TLS. Continues 
bactrim and acyclovir ppx

#Chemotherapy-induced anemia: At baseline, continue to monitor. 
He did not require any transfusion in-house. Transfuse hgb <7

#Chemotherapy-induced constipation: No acute issues. Senna and 
Colace standing in-house.

#HIV: CD4 was 58 on ___
-Continue dolutegravir and emtricitabine-tenofovir
-Seen by ID at start of chemotherapy, recommended against MAC 
ppx if CD4<50 as this is transient in s/o chemotherapy and 
expected to recover.

#Depression/Anxiety: Continues to do well off wellbutrin

#HTN: Normotensive. Off lisinopril for months, doing well

CORE MEASURES
------------------
ACCESS: R POC
Emergency Contact: Partner ___ is HCP: ___. 
Code Status: FULL CODE-confirmed.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Allopurinol ___ mg PO DAILY 
3. Dolutegravir 50 mg PO DAILY 
4. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
5. Filgrastim-sndz 480 mcg SC Q24H 
6. LORazepam 0.5-1 mg PO Q4H:PRN nausea anxiety insomnia 
7. Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Cetirizine 10 mg PO DAILY:PRN allergies 
10. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q12H  
2.  Cetirizine 10 mg PO DAILY:PRN allergies  
3.  Dolutegravir 50 mg PO DAILY  
4.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY  
5.  Filgrastim-sndz 480 mcg SC Q24H 
Start daily injections on ___  
6.  LORazepam 0.5-1 mg PO Q4H:PRN nausea anxiety insomnia  
7.  Multivitamins W/minerals 1 TAB PO DAILY  
8.  Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line  
9.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Diffuse large b-cell lymphoma
#HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to receive C6 of da-EPOCH. You tolerated this 
very well and will be discharged home today. You will begin 
neupogen injections daily starting ___. You 
will follow up as stated below. Please call with any questions 
or concerns. 
 
Followup Instructions:
___